US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(2-methoxy-ethoxy)-pyridin-3-yl]-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and 6-(2-methoxy-ethoxy)-pyridin-3-ylamine. LCMS calcd for C19H16F3N3O4 (m/e) 407, obsd 408 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | 6-(2-methoxy-ethoxy)-pyridin-3-ylamine | COCCOC1=CC=C(C=N1)N | C8H12N2O2
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid [6-(2-methoxy-ethoxy)-pyridin-3-yl]-amide | COCCOC1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1 | C19H16F3N3O4
